US07498460B2
4-(Biphenyl-4-ylmethoxy)phenyl acetate
2.35 g of anhydrous potassium carbonate are added to a solution of 2.80 g of 4-biphenylmethyl bromide and 1.72 g of 4-hydroxyphenyl acetate in 75 ml of butyronitrile, and the reaction mixture is stirred at 120° C. overnight. It is filtered with suction, washed with acetonitrile, and concentrated. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution, dried over sodium sulphate and filtered, and the solvent is removed in a rotary evaporator. This is followed by stirring with ethyl acetate, filtration with suction and washing of the resulting crystals several times with ethyl acetate. 1.36 g of product are obtained. A further 0.36 g of product can be isolated from the mother liquor after concentration and chromatography on silica gel with dichloromethane.

reactant | potassium carbonate | 2.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-biphenylmethyl bromide | 2.80 g | C1=CC=C(C=C1)C2=CC=C(C=C2)CBr | C13H11Br
reactant | 4-hydroxyphenyl acetate | 1.72 g | C(C)(=O)OC1=CC=C(C=C1)O | C8H8O3
solvent | butyronitrile | 75 ml | C(CCC)#N | C4H7N
product | 4-(Biphenyl-4-ylmethoxy)phenyl acetate | 1.36 g | C(C)(=O)OC1=CC=C(C=C1)OCC1=CC=C(C=C1)C1=CC=CC=C1 | C21H18O3
